US04631081
Pyridine-3-carboxaldehyde (18.9 ml) and 1-triphenylphosphoranylidene-2-propanone (70 g) were heated at reflux in toluene for 2 hr. The solvent was evaporated and the residue was distilled at reduced pressure to give 1-(3-pyridyl)but-1-en-3-one as an oil. Pmr spectrum (CDCl3 ; δ in ppm): 2.41 (3H, s); 6.79 (1H, d); 7.2-8.77 (4H, m); 7.52 (1H, d).

reactant | Pyridine-3-carboxaldehyde | 18.9 ml | N1=CC(=CC=C1)C=O | C6H5NO
reactant | 1-triphenylphosphoranylidene-2-propanone | 70 g | C1(=CC=CC=C1)P(=CC(C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(3-pyridyl)but-1-en-3-one | N1=CC(=CC=C1)C=CC(C)=O | C9H9NO
